US06350774B1
Preparation of 3-(4-[2-(2,2-dimethylhydrazino)-2-oxoethoxy]-benzyl]-2-[4-(2-(1-pyrrolidinyl)ethoxy]phenyl]-benzo[b]thiophene.
A solution of 1,1-dimethyl hydrazine (0.1 mL, 1.3 mmol) in toluene (5 mL) was added to a solution of trimethyl aluminum (1.3 mL, 1.0M/toluene) in toluene (20 mL) at 0-5° C. The cooling bath was removed and the mixture stirred for 60 minutes. A solution of 3-[4-(2-ethoxy-2-oxoethoxy)benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-benzo[b]thiophene (310 mg, 0.6 mmol) in toluene (5-10 mL) was added and the mixture refluxed for 60 minutes, cooled, decomposed with water, and extracted with CH2Cl2:i-PrOH (3:1). The organic phase was washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel, eluting with a gradient (CH2Cl2/5% MeOH/0-1% Et3N) to give the title compound as an amorphous solid (205 mg, 65%).

reactant | 1,1-dimethyl hydrazine | 1.3 mmol, 0.1 mL | CN(N)C | C2H8N2
reactant | trimethyl aluminum | 1.0M, 1.3 mL | C[Al](C)C
reactant | 3-[4-(2-ethoxy-2-oxoethoxy)benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-benzo[b]thiophene | 0.6 mmol, 310 mg | C(C)OC(COC1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)OCCN2CCCC2)C=CC=C3)C=C1)=O | C31H33NO4S
reactant | water | O | H2O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5-10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-[2-(2,2-dimethylhydrazino)-2-oxoethoxy]-benzyl]-2-[4-(2-(1-pyrrolidinyl)ethoxy]phenyl]-benzo[b]thiophene | 205 mg, 65% | CN(NC(COC1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)OCCN2CCCC2)C=CC=C3)C=C1)=O)C | C31H35N3O3S
